US09212168B2
(a) (2S,4S)-tert-butyl 2-(4-(5′-chloro-4′-(6-((R)-2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate
To a round bottom flask was added (2S,4S)-tert-butyl 2-(4-(4-bromophenyl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate (10 g, 24.61 mmol), (R)-(5-chloro-4-(6-(2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2-(trifluoromethoxy)phenyl)boronic acid (14.16 g, 26.1 mmol), sodium bicarbonate (7.24 g, 86 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (0.17 g, 0.246 mmol), 2 methyltetrahydrofuran (120 mL) and water (44.3 mL) to give a suspension. The reaction mixture was degassed with nitrogen for 10 min then heated at 70° C. overnight. Water (60 mL) was added and the layers were separated. The organic layer was washed with brine, dried over Na2SO4, and evaporated to give crude product (27.3 g). The crude product was purified by flash chromatography (300 g silica gel, 20-100% EtOAc (50 min), then 100% EtOAc (20 min)) to give the title intermediate (18.8 g; 93% yield) HPLC Method B: Retention time 14.99 min.

reactant | (2S,4S)-tert-butyl 2-(4-(4-bromophenyl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 24.61 mmol, 10 g | BrC1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C | C19H24BrN3O2
reactant | (R)-(5-chloro-4-(6-(2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2-(trifluoromethoxy)phenyl)boronic acid | 26.1 mmol, 14.16 g | ClC=1C(=CC(=C(C1)B(O)O)OC(F)(F)F)NC(C1=CN=C(C=C1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O | C23H27BClF3N4O5
reactant | sodium bicarbonate | 86 mmol, 7.24 g | C([O-])(O)=O.[Na+]
reactant | methyltetrahydrofuran | 120 mL | CC1OCCC1 | C5H10O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.246 mmol, 0.17 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 44.3 mL | O | H2O
product | (2S,4S)-tert-butyl 2-(4-(5′-chloro-4′-(6-((R)-2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 18.8 g, 93% yield | ClC=1C(=CC(=C(C1)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C)OC(F)(F)F)NC(C1=CN=C(C=C1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O | C42H49ClF3N7O5
